* FILE: MMI_AND2B.sp


* SPICE netlist for "MMI_AND2B" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_AND2B in0 in1 out 
Minverter1._0 out N1 gnd gnd n W='0.92*1u' L=ln_min  
Minverter1._1 out N1 vdd vdd p W='1.84*1u' L=lp_min  
M_2_1 N1 in0 vdd vdd p W='0.92*1u' L=lp_min  
M_3_1 N1 in1 vdd vdd p W='0.92*1u' L=lp_min  
M_4_1 N1 in0 net_1 gnd n W='0.92*1u' L=ln_min  
M_5_1 net_1 in1 gnd gnd n W='0.92*1u' L=ln_min  
.ENDS	$ MMI_AND2B

