* FILE: MMI_AOI21A.sp


* SPICE netlist for "MMI_AOI21A" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_AOI21A in0 in1 in2 out 
M_0 out in0 gnd gnd n W='0.46*1u' L=ln_min  
M_1_1 out in1 net_1 gnd n W='0.92*1u' L=ln_min  
M_2_1 net_1 in2 gnd gnd n W='0.92*1u' L=ln_min  
M_3_1 out in0 net_2 vdd p W='1.84*1u' L=lp_min  
M_4_1 net_2 in2 vdd vdd p W='1.84*1u' L=lp_min  
M_5_1 net_2 in1 vdd vdd p W='1.84*1u' L=lp_min  
.ENDS	$ MMI_AOI21A

