* FILE: MMI_AOI31A.sp


* SPICE netlist for "MMI_AOI31A" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_AOI31A in0 in1 in2 in3 out 
M_0 out in0 gnd gnd n W='0.46*1u' L=ln_min  
M_1_1 out in1 net_1 gnd n W='1.38*1u' L=ln_min  
M_2_1 net_1 in2 net_2 gnd n W='1.38*1u' L=ln_min  
M_3_1 net_2 in3 gnd gnd n W='1.38*1u' L=ln_min  
M_4_1 out in0 net_3 vdd p W='1.84*1u' L=lp_min  
M_5_1 net_3 in1 vdd vdd p W='1.84*1u' L=lp_min  
M_6_1 net_3 in2 vdd vdd p W='1.84*1u' L=lp_min  
M_7_1 net_3 in3 vdd vdd p W='1.84*1u' L=lp_min  
.ENDS	$ MMI_AOI31A

