* FILE: MMI_BUFB.sp


* SPICE netlist for "MMI_BUFB" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_BUFB in out 
M_0 out N1 vdd vdd p W='1.54*1u' L=lp_min  
M_1_1 out N1 gnd gnd n W='0.77*1u' L=ln_min  
M_2_1 N1 in gnd gnd n W='0.385*1u' L=ln_min  
M_3_1 N1 in vdd vdd p W='0.77*1u' L=lp_min  
.ENDS	$ MMI_BUFB

