* FILE: MMI_BUFD.sp


* SPICE netlist for "MMI_BUFD" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_BUFD in out 
M_0 out N1 vdd vdd p W='7.36*1u' L=lp_min  
M_1_1 out N1 gnd gnd n W='3.68*1u' L=ln_min  
M_2_1 N1 in vdd vdd p W='2.48*1u' L=lp_min  
M_3_1 N1 in gnd gnd n W='1.24*1u' L=ln_min  
.ENDS	$ MMI_BUFD

